US04348399
Preparation of 3-bromopropyl-4-(hexadecylamino)phenylacetamide
To a slurry of 21.80 g. of 3-bromopropylamine hydrobromide in 200 ml. of glyme at 3° C. is added a solution of 23.96 g. of 4-(hexadecylamino)phenylacetyl chloride hydrochloride in 65 ml. of glyme, concurrently with 26 ml. of triethylamine diluted to 39 ml. with glyme. The solution is warmed to reflux and 0.2 g. of 4-dimethylaminopyridine is added. The solution is heated for four hours and cooled overnight. The solid is removed and the mother liquor diluted with 200 ml. of water giving 12.94 g. The solid is recrystallized from cyclohexane and is then chromatographed on silica gel by elution with chloroform. The largest component is recrystallized from acetronitrile.

reactant | 3-bromopropylamine hydrobromide | Br.BrCCCN
reactant | 4-(hexadecylamino)phenylacetyl chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(C=C1)CC(=O)Cl
reactant | triethylamine | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | glyme | C(OC)COC | C4H10O2
product | 3-bromopropyl-4-(hexadecylamino)phenylacetamide | BrCCCC(C(=O)N)C1=CC=C(C=C1)NCCCCCCCCCCCCCCCC | C27H47BrN2O
